US08492549B2
Trifluoromethanesulfonic acid 3-{(R*)-1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]-piperidin-3-yl}phenyl ester
(R*)-3-{1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]piperidin-3-yl}phenol (1.77 g, 5.44 mmol) was dissolved in DCM (10 ml) under an inert atmosphere. Triethylamine (0.58 g, 5.71 mmol) was added and the mixture was cooled to −30° C. Trifluoromethanesulfonic acid anhydride (1.61 g, 5.71 mmol) was added dropwise. The cooling bath was removed and the mixture stirred for 1 h. The mixture was washed with water (2×10 ml) and evaporated to dryness. Column chromatography, using a gradient of DCM:MeOH as eluent, gave 1.1 g of the title compound.

reactant | (R*)-3-{1-[(S)-1-(2,3-Dihydrobenzo[1,4]dioxin-2-yl)methyl]piperidin-3-yl}phenol | 5.44 mmol, 1.77 g | O1[C@H](COC2=C1C=CC=C2)CN2C[C@H](CCC2)C=2C=C(C=CC2)O | C20H23NO3
reactant | Triethylamine | 5.71 mmol, 0.58 g | C(C)N(CC)CC | C6H15N
reactant | Trifluoromethanesulfonic acid anhydride | 5.71 mmol, 1.61 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 3-{(R*)-1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]-piperidin-3-yl}phenyl ester | 1.1 g | O1[C@H](COC2=C1C=CC=C2)CN2C[C@H](CCC2)C=2C=C(C=CC2)OS(=O)(=O)C(F)(F)F | C21H22F3NO5S
